US07655648B2
b) [(1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azetidinyl)methyl]amine
To a solution of phenylmethyl[(1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azetidinyl)methyl]carbamate (0.44 g, 1.03 mmole) in MeOH (50 mL) was added Pd(OH)2 (100 mg). The reaction contents were placed under a balloon of H2 and stirred for 18 hours. The reaction contents were filtered through Celite® (MeOH) and concentrated under vacuum to give the title compound (0.28 g, 95%) as a light yellow oil: LC-MS (ES) m/e 291 (M+H)+.

reactant | phenylmethyl[(1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azetidinyl)methyl]carbamate | 1.03 mmole, 0.44 g | C1(=CC=CC=C1)COC(NCC1CN(C1)CCC1=C(C=NC2=CC=C(N=C12)OC)F)=O | C23H25FN4O3
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd(OH)2 | 100 mg | [OH-].[OH-].[Pd+2]
product | [(1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azetidinyl)methyl]amine | 0.28 g, 95% | FC=1C=NC2=CC=C(N=C2C1CCN1CC(C1)CN)OC | C15H19FN4O
